US07314888B1
In 10 ml of N,N-dimethylformamide are suspended 0.95 g of methyl 4,6-dibromo-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate, 0.24 g of 60% sodium hydride and 0.7 ml of isopentyl bromide. The suspension is stirred at 50-60° C. for 3 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 2 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 0.71 g of methyl 4,6-dibromo-1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate is obtained as a light brown-colored solid product.

reactant | methyl 4,6-dibromo-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 0.95 g | BrC1=C(C(=CC=2NC(NC21)=O)Br)C(=O)OC | C9H6Br2N2O3
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | isopentyl bromide | 0.7 ml | C(CC(C)C)Br | C5H11Br
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4,6-dibromo-1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 0.71 g | BrC1=C(C(=CC=2N(C(N(C21)CCC(C)C)=O)CCC(C)C)Br)C(=O)OC | C19H26Br2N2O3
